US04772312
10 ml of 45% strength aqueous sodium hydroxide solution are added to 18 g (0.06 mole) of 5-amino-1-(5-trifluoromethyl-pyrid-2-yl)-4-ethoxycarbonyl-pyrazole in 100 ml of 50% strength aqueous ethanol solution and the mixture is stirred at 80° C. for 4 hours. For working up, the solvent is removed in vacuo, the residue is taken up in 50 ml of water and the mixture is stirred into a solution of 20 ml of concentrated hydrochloric acid and 50 ml of water. The precipitate is filtered off with suction, washed with a little dilute hydrochloric acid and dried at 50° C. in vacuo. 15.4 g (94.4% of theory) of 5-amino-1-(5-trifluoromethyl-pyrid-2-yl)-pyrazole-4-carboxylic acid of melting point 196° C. (decomposition) are obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 5-amino-1-(5-trifluoromethyl-pyrid-2-yl)-4-ethoxycarbonyl-pyrazole | 0.06 mole, 18 g | NC1=C(C=NN1C1=NC=C(C=C1)C(F)(F)F)C(=O)OCC | C12H11F3N4O2
solvent | ethanol | C(C)O | C2H6O
product | 5-amino-1-(5-trifluoromethyl-pyrid-2-yl)-pyrazole-4-carboxylic acid | 15.4 g, 94.4% | NC1=C(C=NN1C1=NC=C(C=C1)C(F)(F)F)C(=O)O | C10H7F3N4O2
